US05773530
To a solution of 3-(3-oxo-2,3-dihydropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine (1.58 g) in 80 ml of N,N-dimethylformamide was added sodium hydride (60% dispersion in mineral oil, 242 mg) at 5° C. After being stirred for 15 minutes at 5° C., the mixture was treated with epoxycyclohexane (1.62 g) and heated to 127° C. for 4.5 hours. The reaction mixture was poured into ice-water (200 ml), and the mixture was extracted with ethyl acetate (100 ml, 50 ml). The combined extracts were washed with water (50 ml) and brine (50 ml), dried over sodium sulfate, and concentrated in vacuo. The crude materials were purified by column chromatography on silica gel (40 g). The fractions containing minor cis isomer eluted with a mixture of dichloromethane and ethyl acetate (10:1-10:2) were collected, and the solvent was removed in vacuo to give cis-3-[2-(2-hydroxycyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (65.1 mg). The physical data for this compound were idendical with those of the authentic sample prepared by the method described in Example 4.

reactant | 3-(3-oxo-2,3-dihydropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine | 1.58 g | O=C1NN=C(C=C1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C17H12N4O
reactant | sodium hydride | 242 mg | [H-].[Na+]
reactant | epoxycyclohexane | 1.62 g | O1C2C1CCCC2 | C6H10O
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | cis-3-[2-(2-hydroxycyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 65.1 mg | O[C@@H]1[C@@H](CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C23H22N4O2
